*$
* OPAx391
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPAx391
* Date: 30AUG2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS925A - DECEMBER 2020 - REVISED JANUARY 2021 
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* 1. Moved R_NOISELESS .model inside OPAx391 subckt.
* 2. Updated PSpice Symbol.
*
* Final 1.2
* 1. Updated the current direction(i.e. IOUT- IOUT+) of IQ_SRC block to 
*    resolve Iout current direction issue.
*
* Final 1.1
* 1. Modified the capacitor(C14) value from 1F to 1uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Added Overload Recovery block.
* 3. Updated Quiescent Current, Slewrate, CLAW curves and Short Circuit 
*    Currents.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
*****************************************************************************
.SUBCKT OPAx391 IN+ IN- VCC VEE OUT 
*****************************************************************************
C_C13         0 N1601058  1F   
C_C14         0 N1600926  1U   
C_C15         0 N1601098  1F   
C_C16         MID N1639388  1F   
C_C17         MID N1639412  1F   
C_C18         MID N1639458  1F   
C_C19         MID N1639478  1F   
C_C20         MID N1704577  1F   
C_C21         MID N1704787  1F   
C_C22         MID N1704559  1F   
C_C23         N1639584 MID  1F   
C_C24         MID N1639580  1F   
C_C25         MID N2607744  1P   
C_C26         MID N2607998  1P   
C_C27         MID SW_OL_OPAx391  1N   
C_C28         VCLP MID  1P   
C_C29         VIMON MID  1P   
C_C30         VOUT_S MID  1P   
C_C4          N1639300 MID  1F   
C_C40         N1606462 N1606472  663.1P   
C_C41         MID N1606886  3.183P   
C_C42         MID N1606904  53.05F   
C_C43         MID N1606922  53.05F   
C_C44         N1611961 N1611951  73.44P   
C_C45         N1620450 N1620460  121.5P   
C_C46         N1629502 N1629492  3.979P   
C_C47         N1629522 N1629512  53.05F   
C_C48         MID CLAMP  162N   
C_C49         MID N1629686  35.3F   
C_C50         MID N1629718  23.41F   
C_C51         MID N1629752  23.41F   
C_C52         N1748513 N1748503  530.5P   
C_C53         MID N1753323  35.7F   
C_C54         MID N1629682  35.3F    
C_C_COM0      ESDP MID  1P   
C_C_COM1      MID ESDN  1P   
C_C_DIFF      ESDN ESDP  1P   
C_C_ZO1       N1635840 N1635850  15.92U   
C_C_ZO2       N1635860 N1635870  126.3P   
C_C_ZO3       N1635880 N1635890  1.06P   
E_E1          MID 0 N1600926 0 1
E_E2          N1639666 MID CL_CLAMP MID 1
E_E3          N1639696 MID OUT MID 1
G_G12         CLAW_CLAMP MID N1629522 MID -1M
G_G13         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N1639206 N1639198 N1606858 MID -1M
G_G20         VCC_CLP MID N1639584 MID -1M
G_G21         VEE_CLP MID N1639580 MID -1M
G_G22         N2607878 MID N2607866 MID -1
G_G23         N2607946 MID N2607968 MID -1
G_G5          N1639228 N1639224 N1620460 N1611961 -1M
G_GA1         VSENSE MID CLAMP MID -1M
G_GA2         N1629686 MID N1629682 MID -1U
G_GA3         N1629718 MID N1629686 MID -1U
G_GA4         N1629752 MID N1629718 MID -1U
G_GA5         N1748503 MID VSENSE MID -1.267
G_GA6         N1753323 MID N1748513 MID -1U
G_GA7         N1629682 MID N1753323 MID -1U
G_G_CMR1      N1606462 MID ESDP MID -416.7M
G_G_CMR2      N1606482 MID N1606472 MID -1
G_G_CMR3      N1606510 MID N1606492 MID -1
G_G_CMR4      N1606538 MID N1606520 MID -1
G_G_CMR5      N1606858 MID N1606548 MID -1
G_G_ZO1       N1611951 MID VEE_B MID -450.2M
G_G_ZO2       N1620450 MID VCC_B MID -513.4M
G_G_ZO3       N1635880 MID N1635870 MID -10
G_G_ZO4       N1629492 MID N1629752 MID -3.8
G_G_ZO5       N1629512 MID N1629502 MID -33.3
G_G_ZO6       N1635840 MID CL_CLAMP N1639344 -89
G_G_ZO7       N1635860 MID N1635850 MID -1.72
I_I_B         N1639184 MID DC 0.01P  
I_I_OS        ESDN MID DC 0.1F  
I_I_Q         VCC VEE DC 24U  
R_R1          IN+ ESDP R_NOISELESS 10M
R_R100        MID N1620450 R_NOISELESS 1
R_R101        MID N1620460 R_NOISELESS 1.379K
R_R115        MID N1629718 R_NOISELESS 1MEG
R_R116        MID N1629752 R_NOISELESS 1MEG
R_R117        N1629502 N1629492 R_NOISELESS 10K
R_R118        MID N1629502 R_NOISELESS 3.571K
R_R119        MID N1629492 R_NOISELESS 1
R_R12         MID VSENSE R_NOISELESS 1K
R_R120        N1629522 N1629512 R_NOISELESS 10K
R_R121        MID N1629512 R_NOISELESS 1
R_R122        MID N1629522 R_NOISELESS 309.3
R_R123        N1748513 N1748503 R_NOISELESS 10K
R_R124        MID N1748503 R_NOISELESS 1
R_R125        MID N1748513 R_NOISELESS 37.5K
R_R126        MID N1753323 R_NOISELESS 1MEG
R_R127        MID N1629682 R_NOISELESS 1MEG
R_R128        MID CLAMP R_NOISELESS 1MEG
R_R13         MID N1629686 R_NOISELESS 1MEG
R_R15         N1639224 N1639206 R_NOISELESS 1M
R_R16         N1639228 N1639224 R_NOISELESS 1K
R_R17         N1639262 ESDN R_NOISELESS 1M
R_R18         MID N1639266 R_NOISELESS 1T
R_R19         MID N1639278 R_NOISELESS 1T
R_R2          IN- ESDN R_NOISELESS 10M
R_R20         N1639286 MID R_NOISELESS 1
R_R21         N1639300 N1639286 R_NOISELESS 1M
R_R22         MID N1639310 R_NOISELESS 1MEG
R_R3          ESDP MID R_NOISELESS 1T
R_R32         MID CLAW_CLAMP R_NOISELESS 1K
R_R33         MID CL_CLAMP R_NOISELESS 1K
R_R4          MID ESDN R_NOISELESS 1T
R_R44         N1606492 N1606482 R_NOISELESS 15K
R_R45         N1606886 N1606492 R_NOISELESS 10K
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N1601058 R_NOISELESS 1M
R_R48         N1601058 N1600926 R_NOISELESS 1MEG
R_R49         N1600926 0 R_NOISELESS 1T
R_R50         N1600926 N1601098 R_NOISELESS 1MEG
R_R51         N1601098 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N1639376 MID R_NOISELESS 1
R_R55         N1639388 N1639376 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N1639410 MID R_NOISELESS 1
R_R58         N1639412 N1639410 R_NOISELESS 1M
R_R59         N1639454 MID R_NOISELESS 1T
R_R60         N1639456 MID R_NOISELESS 1
R_R61         N1639458 N1639456 R_NOISELESS 1M
R_R62         N1639478 N1639484 R_NOISELESS 1M
R_R63         N1639496 MID R_NOISELESS 1T
R_R64         N1639484 MID R_NOISELESS 1
R_R65         N1704565 MID R_NOISELESS 1T
R_R66         N1704573 MID R_NOISELESS 1
R_R67         N1704577 N1704573 R_NOISELESS 1M
R_R68         N1704787 N1704807 R_NOISELESS 1M
R_R69         N1704835 MID R_NOISELESS 1T
R_R70         N1704807 MID R_NOISELESS 1
R_R71         N1704559 VSENSE R_NOISELESS 1M
R_R72         VCC_B N1639548 R_NOISELESS 1K
R_R73         N1639548 N1639584 R_NOISELESS 1M
R_R74         N1639552 VEE_B R_NOISELESS 1K
R_R75         N1639552 N1639580 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N2607946 MID R_NOISELESS 1
R_R79         N2607878 MID R_NOISELESS 1
R_R8          N1639206 N1639198 R_NOISELESS 1K
R_R80         V11 N2607744 R_NOISELESS 100
R_R81         V12 N2607998 R_NOISELESS 100
R_R82         N2607758 MID R_NOISELESS 1
R_R83         N2607758 SW_OL_OPAx391 R_NOISELESS 100
R_R84         N1639666 VCLP R_NOISELESS 100
R_R85         N1606520 N1606510 R_NOISELESS 90K
R_R86         N1606548 N1606538 R_NOISELESS 90K
R_R87         N1606904 N1606520 R_NOISELESS 10K
R_R88         N1606922 N1606548 R_NOISELESS 10K
R_R89         N1606472 N1606462 R_NOISELESS 100MEG
R_R90         MID N1606462 R_NOISELESS 1
R_R91         MID N1606472 R_NOISELESS 2.4K
R_R92         MID N1606482 R_NOISELESS 1
R_R93         MID N1606510 R_NOISELESS 1
R_R94         MID N1606538 R_NOISELESS 1
R_R95         MID N1606858 R_NOISELESS 1
R_R96         N1611961 MID R_NOISELESS 1.572K
R_R97         N1611951 N1611961 R_NOISELESS 100MEG
R_R98         MID N1611951 R_NOISELESS 1
R_R99         N1620460 N1620450 R_NOISELESS 100MEG
R_RDUMMY      MID N1639344 R_NOISELESS 754K
R_RX          N1639344 N1636176 R_NOISELESS 7.54MEG
R_RX1         MID N1639684 R_NOISELESS 1T
R_RX2         VIMON N1639684 R_NOISELESS 100
R_RX3         MID N1639696 R_NOISELESS 1T
R_RX4         VOUT_S N1639696 R_NOISELESS 100
R_R_ZO1       MID N1635840 R_NOISELESS 1
R_R_ZO10      MID N1636176 R_NOISELESS 1
R_R_ZO2       N1635850 N1635840 R_NOISELESS 10K
R_R_ZO3       N1635850 MID R_NOISELESS 13.89K
R_R_ZO4       MID N1635860 R_NOISELESS 1
R_R_ZO5       N1635870 N1635860 R_NOISELESS 10K
R_R_ZO6       N1635870 MID R_NOISELESS 1.11K
R_R_ZO7       MID N1635880 R_NOISELESS 1
R_R_ZO8       N1635890 N1635880 R_NOISELESS 10K
R_R_ZO9       N1635890 MID R_NOISELESS 638.3
V_VCM_MAX     N1639266 VCC_B 0.1
V_VCM_MIN     N1639278 VEE_B -0.1
V_V_GRN       N1704835 MID -6.1K
V_V_GRP       N1704565 MID 7.7K
V_V_ISCN      N1639496 MID -68
V_V_ISCP      N1639454 MID 84.4
V_V_ORN       N2607866 VCLP -26.3
V_V_ORP       N2607968 VCLP 26.2
X_H1          N1639344 OUT N1639684 MID BLOCK_DC_H1_OPAx391 
X_H2          N2607472 N2607946 V12 MID BLOCK_DC_H2_OPAx391 
X_H3          N2607416 N2607878 V11 MID BLOCK_DC_H3_OPAx391 
X_S3          N2607416 CLAMP N2607416 CLAMP BLOCK_DC_S3_OPAx391 
X_S4          CLAMP N2607472 CLAMP N2607472 BLOCK_DC_S4_OPAx391 
X_U1          ESDP N1639184 VNSE_OPAx391   PARAMS: FLW=0.01 GLF=0.998 RNV=4284.619
X_U10         VCC_CLP VEE_CLP VOUT_S MID N1639376 N1639410 CLAMP_AMP_LO_OPAx391  
+  PARAMS: G=1
X_U11         N1639454 N1639496 VIMON MID N1639456 N1639484
+  CLAMP_AMP_LO_OPAx391   PARAMS: G=1
X_U12         N1704565 N1704835 N1704559 MID N1704573 N1704807
+  CLAMP_AMP_HI_OPAx391   PARAMS: G=10
X_U16         MID N2607758 N2607744 N2607998 OL_SENSE_OPAx391  
X_U18         VIMON MID N1639548 VCC_B CLAWP_OPAx391  
X_U19         MID VIMON VEE_B N1639552 CLAWN_OPAx391  
X_U21         OUT VCC VEE ESD_OUT_OPAx391  
X_U22         N1639458 N1639478 CL_CLAMP MID CL_SRC_OPAx391   PARAMS: GAIN=1
+  IPOS=27.2E1 INEG=-24.4E1
X_U23         N1704577 N1704787 CLAMP MID GR_SRC_OPAx391   PARAMS: GAIN=1
+  IPOS=1.6E1 INEG=-1.6E1
X_U25         SW_OL_OPAx391 MID N1635840 N1635850 SW_OL_OPAx391  
X_U26         VIMON MID MID VCC IQ_SRC_OPAx391   PARAMS: GAIN=1E-3
X_U27         MID VIMON VEE MID IQ_SRC_OPAx391   PARAMS: GAIN=1E-3
X_U30         N1639300 N1639262 MID N1639310 AOL_1_OPAx391   PARAMS: GAIN=1E-4
+  IPOS=.5 INEG=-.5
X_U31         N1639310 MID MID CLAMP AOL_2_OPAx391   PARAMS: GAIN=1.13E-2
+  IPOS=0.8 INEG=-0.8
X_U35         N1639388 N1639412 CLAW_CLAMP MID CLAW_SRC_OPAx391   PARAMS: GAIN=1
+  IPOS=13.6E1 INEG=-12.2E1
X_U36         N1639184 MID FEMT_OPAx391   PARAMS: NVRF=30
X_U37         ESDN MID FEMT_OPAx391   PARAMS: NVRF=30
X_U38         N1635890 MID MID N1636176 ZO_SRC_OPAx391   PARAMS: GAIN=16.67
+  IPOS=20E5 INEG=-20E5
X_U4          N1639198 N1639184 VOS_DRIFT_OPAx391   PARAMS: DC=-28.93E-6 POL=1
+  DRIFT=1.2E-06
X_U5          ESDN ESDP VCC VEE ESD_IN_OPAx391  
X_U6          N1639228 MID N1639286 MID N1639266 N1639278 VCM_CLAMP_OPAx391  
+  PARAMS: GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS OPAx391
*
.SUBCKT BLOCK_DC_H1_OPAx391 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPAx391
*
.SUBCKT BLOCK_DC_H2_OPAx391 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPAx391
*
.SUBCKT BLOCK_DC_H3_OPAx391 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPAx391
*
.SUBCKT BLOCK_DC_S3_OPAx391 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S3_OPAx391
*
.SUBCKT BLOCK_DC_S4_OPAx391 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S4_OPAx391
*
.SUBCKT AOL_1_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPAx391
*
.SUBCKT AOL_2_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1.13E-2 IPOS=0.8 INEG=-0.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPAx391
*
.SUBCKT CLAMP_AMP_HI_OPAx391 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPAx391
*
.SUBCKT CLAMP_AMP_LO_OPAx391 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPAx391
*
.SUBCKT CLAWN_OPAx391 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,     3.00E-05)
+(26,    5.58E-04)
+(42,    9.70E-04)
+(52,    1.31E-03)
+(60,    1.72E-03)
+(64,    2.06E-03)
+(67,    2.67E-03)
+(68,       3E-03)
.ENDS  CLAWN_OPAx391
*
.SUBCKT CLAWP_OPAx391 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,     3.00E-05)
+(28,    6.44E-04)
+(48,    1.20E-03)
+(60,    1.65E-03)
+(70,    2.12E-03)
+(76,    2.67E-03)
+(80.07, 3.25E-03)
+(82.24, 4.08E-03)
+(84.4,  5.50E-03)
.ENDS  CLAWP_OPAx391
*
.SUBCKT CLAW_SRC_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=13.6E1 INEG=-12.2E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPAx391
*
.SUBCKT CL_SRC_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=27.2E1 INEG=-24.4E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPAx391
*
.SUBCKT ESD_IN_OPAx391 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPAx391
*
.SUBCKT ESD_OUT_OPAx391 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPAx391
*
.SUBCKT FEMT_OPAx391 1 2 PARAMS: NVRF=30
E1 3 0 5 0 10
R1 5 0 {1.184*PWR(NVRF,2)}
R2 5 0 {1.184*PWR(NVRF,2)}
G1 1 2 3 0 1E-6
.ENDS  FEMT_OPAx391
*
.SUBCKT GR_SRC_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=1.6E1 INEG=-1.6E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPAx391
*
.SUBCKT IQ_SRC_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPAx391
*
.SUBCKT OL_SENSE_OPAx391 1  2  3  4
GSW+ 1 2 VALUE = {IF((V(3,1)>10E-3 | V(4,1)>10E-3),1,0)}
.ENDS  OL_SENSE_OPAx391
*
.SUBCKT SW_OL_OPAx391 SW_OL_OPAx391 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPAx391 MID OL_SW
.ENDS  SW_OL_OPAx391
*
.SUBCKT VCM_CLAMP_OPAx391 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPAx391
*
.SUBCKT VNSE_OPAx391 1 2 PARAMS: FLW=0.01 GLF=0.998 RNV=4284.619
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPAx391
*
.SUBCKT VOS_DRIFT_OPAx391 VOS+ VOS- PARAMS: DC=-28.93E-6 POL=1 DRIFT=1.2E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPAx391
*
.SUBCKT ZO_SRC_OPAx391 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=16.67 IPOS=20E5 INEG=-20E5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPAx391
*
